### PR TITLE
feat(NumberTheory/SelbergSieve): define Lambda-squared sieves and prove important properties

### PR DESCRIPTION
**Pull request by amellendijk**
This PR:

* Defines lambda-squared sieves.
* Proves they are upper bound sieves.
* Proves that the corresponding main sum is a quadratic form.

---

- [x] depends on: #21880 
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/SelbergSieve.lean [hunk 1]
```diff
@@ -239,4 +242,246 @@ theorem siftedSum_le_mainSum_errSum_of_upperMoebius (muPlus : ℕ → ℝ) (h :
...
+section LambdaSquared
+/-- We consider a special class of upper bound sieves called the Λ² sieve. This class is
+  parameterised by a sequence of real numbers. We will later choose a set of weights that minimises
+  the main term, under a constraint that lets us control the error term. -/
+def lambdaSquared (weights : ℕ → ℝ) : ℕ → ℝ := fun d =>
+  ∑ d1 ∈ d.divisors, ∑ d2 ∈ d.divisors, if d = Nat.lcm d1 d2 then weights d1 * weights d2 else 0
+
+private theorem lambdaSquared_eq_zero_of_not_le_height_aux {w : ℕ → ℝ} {height : ℝ}
+  (hw : ∀ (d : ℕ), ¬d ^ 2 ≤ height → w d = 0) {d : ℕ} (hd : ¬↑d ≤ height) (d1 : ℕ) (d2 : ℕ)
+  (h : d = Nat.lcm d1 d2) (hle : d1 ≤ d2) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/SelbergSieve.lean:257]:
```suggestion
    (hw : ∀ (d : ℕ), ¬d ^ 2 ≤ height → w d = 0) {d : ℕ} (hd : ¬↑d ≤ height) (d1 : ℕ) (d2 : ℕ)
    (h : d = Nat.lcm d1 d2) (hle : d1 ≤ d2) :
```

File: Mathlib/NumberTheory/SelbergSieve.lean [hunk 2]
```diff
@@ -239,4 +242,246 @@ theorem siftedSum_le_mainSum_errSum_of_upperMoebius (muPlus : ℕ → ℝ) (h :
...
+    w d1 * w d2 = 0 := by
+  rw [hw d2]
+  · ring
+  by_contra hyp; apply hd
+  apply le_trans _ hyp
+  norm_cast
+  calc _ ≤ (d1.lcm d2) := by rw [h]
+      _ ≤ (d1*d2) := Nat.div_le_self _ _
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/SelbergSieve.lean:265]:
```suggestion
  calc _ ≤ d1.lcm d2 := by rw [h]
      _ ≤ d1 * d2 := Nat.div_le_self _ _
```
(though Nat.div_le_self is fishy and there should be a lemma for that)

File: Mathlib/NumberTheory/SelbergSieve.lean [hunk 3]
```diff
@@ -239,4 +242,246 @@ theorem siftedSum_le_mainSum_errSum_of_upperMoebius (muPlus : ℕ → ℝ) (h :
...
+    apply sum_eq_zero; intro d2 _
+    rw [this d1, this d2]
+    simp only [ite_self, eq_self_iff_true, MulZeroClass.mul_zero]
+  apply sum_eq_zero; intro d1 _; apply sum_eq_zero; intro d2 _
+  split_ifs with h
+  swap
+  · rfl
+  rcases Nat.le_or_le d1 d2 with hle | hle
+  · apply lambdaSquared_eq_zero_of_not_le_height_aux hw hd d1 d2 h hle
+  · rw[mul_comm]
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/SelbergSieve.lean:290]:
```suggestion
  · rw [mul_comm]
```

File: Mathlib/NumberTheory/SelbergSieve.lean [hunk 4]
```diff
@@ -239,4 +242,246 @@ theorem siftedSum_le_mainSum_errSum_of_upperMoebius (muPlus : ℕ → ℝ) (h :
...
+  have hp_dvd : p ∣ P := (Nat.dvd_of_mem_primeFactors hp).trans hl
+  linarith only [nu_lt_one_of_prime p hp_prime hp_dvd]
+
+theorem selbergTerms_isMultiplicative : ArithmeticFunction.IsMultiplicative g := by
+  unfold selbergTerms
+  arith_mult
+
+theorem one_div_selbergTerms_eq_conv_moebius_nu (l : ℕ) (hl : Squarefree l)
+    (hnu_nonzero : ν l ≠ 0) : 1 / g l = ∑ ⟨d, e⟩ ∈ l.divisorsAntidiagonal, (μ <| d) * (ν e)⁻¹ :=
+  by
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/SelbergSieve.lean:373]:
```suggestion
    (hnu_nonzero : ν l ≠ 0) :
    1 / g l = ∑ ⟨d, e⟩ ∈ l.divisorsAntidiagonal, (μ <| d) * (ν e)⁻¹ := by
```

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/NumberTheory/SelbergSieve.lean [hunk 5]
```diff
@@ -239,4 +242,248 @@ theorem siftedSum_le_mainSum_errSum_of_upperMoebius (muPlus : ℕ → ℝ) (h :
...
+    rw [this d1, this d2]
+    simp only [ite_self, eq_self_iff_true, MulZeroClass.mul_zero]
+  apply sum_eq_zero; intro d1 _; apply sum_eq_zero; intro d2 _
+  split_ifs with h
+  swap
+  · rfl
+  rcases Nat.le_or_le d1 d2 with hle | hle
+  · apply lambdaSquared_eq_zero_of_not_le_height_aux hw hd d1 d2 h hle
+  · rw [mul_comm]
+    apply lambdaSquared_eq_zero_of_not_le_height_aux hw hd d2 d1 (Nat.lcm_comm d1 d2 ▸ h) hle
```
Comment (jcommelin) [inline Mathlib/NumberTheory/SelbergSieve.lean:295]:
```suggestion
theorem lambdaSquared_eq_zero_of_not_le_height (w : ℕ → ℝ) (height : ℝ)
    (hw : ∀ d : ℕ, ¬d ^ 2 ≤ height → w d = 0) (d : ℕ) (hd : ¬d ≤ height) :
    lambdaSquared w d = 0 := by
  apply sum_eq_zero; intro d1 hd1; apply sum_eq_zero; intro d2 hd2
  rw [ite_eq_right_iff]
  wlog hle : d1 ≤ d2
  · simpa only [Nat.lcm_comm, mul_comm] using this _ _ hw _ hd d2 hd2 d1 hd1 (le_of_not_ge hle)
  by_cases hd1 : d1 = 0
  · simp_all
  by_cases hd2 : d2 = 0
  · simp_all
  rintro rfl
  suffices ¬d2 ^ 2 ≤ height by simp_all
  contrapose! hd with hyp
  apply le_trans _ hyp
  norm_cast
  calc _ ≤ d1 * d2 := Nat.lcm_le_mul (by omega) (by omega)
       _ ≤ d2 ^ 2  := by rw [sq]; gcongr
```

File: Mathlib/NumberTheory/SelbergSieve.lean [hunk 6]
```diff
@@ -239,4 +242,248 @@ theorem siftedSum_le_mainSum_errSum_of_upperMoebius (muPlus : ℕ → ℝ) (h :
...
+        ∑ d1 ∈ n.divisors,
+          ∑ d2 ∈ n.divisors, if d = Nat.lcm d1 d2 then f d1 d2 d else 0 := by
+  apply sum_congr rfl; intro d hd
+  rw [mem_divisors] at hd
+  simp_rw [←Nat.divisors_filter_dvd_of_dvd hd.2 hd.1, sum_filter, ite_sum_zero, ← ite_and]
+  congr with d1
+  congr with d2
+  congr
+  simp +contextual [← and_assoc, eq_iff_iff, and_iff_right_iff_imp,
+    Nat.dvd_lcm_left, Nat.dvd_lcm_right]
```
Comment (jcommelin) [inline Mathlib/NumberTheory/SelbergSieve.lean:311]:
```suggestion
private theorem conv_lambda_sq_larger_sum (f : ℕ → ℕ → ℕ → ℝ) (n : ℕ) :
    (∑ d ∈ n.divisors, ∑ d1 ∈ d.divisors, ∑ d2 ∈ d.divisors,
      if d = Nat.lcm d1 d2 then f d1 d2 d else 0) =
    (∑ d ∈ n.divisors, ∑ d1 ∈ n.divisors, ∑ d2 ∈ n.divisors,
     if d = Nat.lcm d1 d2 then f d1 d2 d else 0) := by
  apply sum_congr rfl; intro d hd
  rw [mem_divisors] at hd
  suffices ∀ d1 d2, (d1 ∣ d ∧ d2 ∣ d ∧ d = d1.lcm d2) = (d = d1.lcm d2) by
    simp_rw [←Nat.divisors_filter_dvd_of_dvd hd.2 hd.1, sum_filter, ite_sum_zero, ← ite_and, this]
  simp +contextual [← and_assoc, Nat.dvd_lcm_left, Nat.dvd_lcm_right]

File: Mathlib/NumberTheory/SelbergSieve.lean [hunk 7]
```diff
@@ -239,4 +242,248 @@ theorem siftedSum_le_mainSum_errSum_of_upperMoebius (muPlus : ℕ → ℝ) (h :
...
+    rw [sum_mul, sum_comm]
+    apply sum_congr rfl; intro d2 hd2
+    rw [sum_ite_eq_of_mem']
+    ring
+    rw [mem_divisors, Nat.lcm_dvd_iff]
+    exact ⟨⟨dvd_of_mem_divisors hd1, dvd_of_mem_divisors hd2⟩, (mem_divisors.mp hd1).2⟩
+  rw [h_sq]
+  split_ifs with hn
+  · rw [hn]; simp [hw]
+  · apply sq_nonneg
```
Comment (jcommelin) [inline Mathlib/NumberTheory/SelbergSieve.lean:332]:
```suggestion
  split_ifs
  · simp_all
  convert sq_nonneg (∑ d ∈ n.divisors, weights d)
  simp_rw [sq, mul_sum, sum_mul]
  rw [conv_lambda_sq_larger_sum _ n, sum_comm]
  apply sum_congr rfl; intro d1 hd1
  rw [sum_comm]
  apply sum_congr rfl; intro d2 hd2
  rw [sum_ite_eq_of_mem', mul_comm]
  rw [mem_divisors, Nat.lcm_dvd_iff]
  exact ⟨⟨dvd_of_mem_divisors hd1, dvd_of_mem_divisors hd2⟩, (mem_divisors.mp hd1).2⟩
```

File: Mathlib/NumberTheory/SelbergSieve.lean [hunk 8]
```diff
@@ -239,4 +242,248 @@ theorem siftedSum_le_mainSum_errSum_of_upperMoebius (muPlus : ℕ → ℝ) (h :
...
+  nu.pmul (.prodPrimeFactors fun p =>  1 / (1 - ν p))
+
+@[inherit_doc selbergTerms]
+scoped [SelbergSieve.Notation] notation3 "g" => selbergTerms
+
+theorem selbergTerms_apply (d : ℕ) :
+    g d = ν d * ∏ p ∈ d.primeFactors, 1 / (1 - ν p) := by
+  unfold selbergTerms
+  by_cases h : d=0
+  · rw [h]; simp
```
Comment (jcommelin) [inline Mathlib/NumberTheory/SelbergSieve.lean:353]:
```suggestion
  by_cases h : d = 0
  · simp [h]
```

File: Mathlib/NumberTheory/SelbergSieve.lean [hunk 9]
```diff
@@ -239,4 +242,248 @@ theorem siftedSum_le_mainSum_errSum_of_upperMoebius (muPlus : ℕ → ℝ) (h :
...
+  apply sum_congr rfl; intro ⟨d, e⟩ hd
+  simp only [mem_divisorsAntidiagonal, ne_eq] at hd
+  obtain ⟨rfl, _⟩ := hd
+  have : ν e ≠ 0 := by
+    revert hnu_nonzero; contrapose!
+    exact nu_mult.eq_zero_of_squarefree_of_dvd_eq_zero hl (Nat.dvd_mul_left e d)
+  simp only [squarefree_mul_iff] at hl ⊢
+  field_simp
+  rw [nu_mult.map_mul_of_coprime hl.1, mul_comm (ν d)]
+  ring
```
Comment (jcommelin) [inline Mathlib/NumberTheory/SelbergSieve.lean:389]:
```suggestion
    1 / g l = ∑ ⟨d, e⟩ ∈ l.divisorsAntidiagonal, (μ d) * (ν e)⁻¹ := by
  simp only [selbergTerms_apply, one_div, mul_inv, inv_div, inv_inv, Finset.prod_congr,
    Finset.prod_inv_distrib, (nu_mult).prodPrimeFactors_one_sub_of_squarefree _ hl, mul_sum]
  rw [← Nat.sum_divisorsAntidiagonal fun i _ : ℕ => (ν l)⁻¹ * (↑(μ i) * ν i)]
  apply sum_congr rfl; intro ⟨d, e⟩ hd
  obtain ⟨rfl, -⟩ : d * e = l ∧ _ := by simpa using hd
  obtain ⟨hde, -⟩ : d.Coprime e ∧ _ := by simpa only [squarefree_mul_iff] using hl
  obtain ⟨hd0, he0⟩ : ¬ν d = 0 ∧ ¬ν e = 0 := by simp_all [nu_mult.map_mul_of_coprime hde]
  field_simp [nu_mult.map_mul_of_coprime hde, mul_assoc]
```

File: Mathlib/NumberTheory/SelbergSieve.lean [hunk 10]
```diff
@@ -239,4 +242,248 @@ theorem siftedSum_le_mainSum_errSum_of_upperMoebius (muPlus : ℕ → ℝ) (h :
...
+  apply symm
+  rw [←sum_filter, Nat.divisors_filter_dvd_of_dvd prodPrimes_ne_zero hdP]
+  have hd_pos : 0 < d := Nat.pos_of_ne_zero <| ne_zero_of_dvd_ne_zero prodPrimes_ne_zero hdP
+  revert hdP; revert d
+  apply (ArithmeticFunction.sum_eq_iff_sum_mul_moebius_eq_on _ (fun _ _ => Nat.dvd_trans)).mpr
+  intro l _ hlP
+  apply symm
+  exact one_div_selbergTerms_eq_conv_moebius_nu l
+    (Squarefree.squarefree_of_dvd hlP prodPrimes_squarefree)
+    (ne_of_gt <| nu_pos_of_dvd_prodPrimes hlP)
```
Comment (jcommelin) [inline Mathlib/NumberTheory/SelbergSieve.lean:402]: I wonder if Moebius inversion could have a slightly better API, so that you have to do less of a dance to use it.
```suggestion
  symm
  rw [←sum_filter, Nat.divisors_filter_dvd_of_dvd prodPrimes_ne_zero hdP]
  have h : 0 < d := Nat.pos_of_ne_zero <| ne_zero_of_dvd_ne_zero prodPrimes_ne_zero hdP
  apply (ArithmeticFunction.sum_eq_iff_sum_mul_moebius_eq_on _ (@Nat.dvd_trans · · _)).mpr _ _ h hdP
  intro l _ hlP
  exact one_div_selbergTerms_eq_conv_moebius_nu l
    (prodPrimes_squarefree.squarefree_of_dvd hlP)
    (nu_pos_of_dvd_prodPrimes hlP).ne' |>.symm
```

**Comment by AlexKontorovich** [comment]
I poked around the rest of the file, and looks great to me! (I learned a number of cool Lean tricks too, well done!)

File: Mathlib/NumberTheory/SelbergSieve.lean [hunk 11]
```diff
@@ -239,4 +242,248 @@ theorem siftedSum_le_mainSum_errSum_of_upperMoebius (muPlus : ℕ → ℝ) (h :
...
+    rw [sum_comm, sum_congr rfl]; intro d1 hd1
+    rw [sum_comm, sum_congr rfl]; intro d2 hd2
+    have h : d1.lcm d2 ∣ P := Nat.lcm_dvd_iff.mpr ⟨dvd_of_mem_divisors hd1, dvd_of_mem_divisors hd2⟩
+    rw [sum_ite_eq_of_mem' (divisors P) (d1.lcm d2) _ (mem_divisors.mpr ⟨h, prodPrimes_ne_zero⟩ ),
+      nu_mult.map_lcm]
+    · ring
+    refine _root_.ne_of_gt (nu_pos_of_dvd_prodPrimes ?_)
+    trans d1
+    · exact Nat.gcd_dvd_left d1 d2
+    · exact dvd_of_mem_divisors hd1
```
Comment (jcommelin) [inline Mathlib/NumberTheory/SelbergSieve.lean:456]:
```suggestion
  case caseA =>
    simp [mainSum, lambdaSquared, sum_mul]
  case caseB =>
    rw [sum_comm, sum_congr rfl]; intro d1 hd1
    rw [sum_comm, sum_congr rfl]; intro d2 hd2
    have h : d1.lcm d2 ∣ P := Nat.lcm_dvd_iff.mpr ⟨dvd_of_mem_divisors hd1, dvd_of_mem_divisors hd2⟩
    rw [sum_ite_eq_of_mem' (divisors P) (d1.lcm d2) _ (mem_divisors.mpr ⟨h, prodPrimes_ne_zero⟩),
      nu_mult.map_lcm]
    · ring
    refine (nu_pos_of_dvd_prodPrimes ?_).ne'
    exact (Nat.gcd_dvd_left d1 d2).trans (dvd_of_mem_divisors hd1)
```

File: Mathlib/NumberTheory/SelbergSieve.lean [hunk 12]
```diff
@@ -239,4 +242,248 @@ theorem siftedSum_le_mainSum_errSum_of_upperMoebius (muPlus : ℕ → ℝ) (h :
...
+    ∑ d1 ∈ divisors P, ∑ d2 ∈ divisors P, (∑ l ∈ divisors P,
+          if l ∣ d1.gcd d2 then 1 / g l * (ν d1 * w d1) * (ν d2 * w d2) else 0) := ?caseA
+    _ = ∑ l ∈ divisors P, ∑ d1 ∈ divisors P, ∑ d2 ∈ divisors P,
+        if l ∣ Nat.gcd d1 d2 then 1 / g l * (ν d1 * w d1) * (ν d2 * w d2) else 0 := ?caseB
+    _ = ∑ l ∈ divisors P,
+        1 / g l * (∑ d ∈ divisors P, if l ∣ d then ν d * w d else 0) ^ 2 := ?caseC
+  case caseA =>
+    rw [lambdaSquared_mainSum_eq_quad_form w]
+    apply sum_congr rfl; intro d1 hd1; apply sum_congr rfl; intro d2 _
+    have hgcd_dvd: d1.gcd d2 ∣ P := (Nat.gcd_dvd_left d1 d2).trans (dvd_of_mem_divisors hd1)
```
Comment (jcommelin) [inline Mathlib/NumberTheory/SelbergSieve.lean:473]:
```suggestion
    have hgcd_dvd : d1.gcd d2 ∣ P := (Nat.gcd_dvd_left d1 d2).trans (dvd_of_mem_divisors hd1)
```

File: Mathlib/NumberTheory/SelbergSieve.lean [hunk 13]
```diff
@@ -239,4 +242,248 @@ theorem siftedSum_le_mainSum_errSum_of_upperMoebius (muPlus : ℕ → ℝ) (h :
...
+    ring
+  case caseB =>
+    apply symm; rw [sum_comm, sum_congr rfl]; intro d1 _; rw [sum_comm];
+  case caseC =>
+    congr with l
+    simp_rw [← sum_filter, sq, sum_mul, mul_sum, sum_filter, ite_sum_zero, ← ite_and, dvd_gcd_iff]
+    congr with d1
+    congr with d2
+    congr 1
+    ring
```
Comment (jcommelin) [inline Mathlib/NumberTheory/SelbergSieve.lean:485]:
```suggestion
    simp_rw [← sum_filter, sq, sum_mul, mul_sum, sum_filter, ite_sum_zero,
      ← ite_and, dvd_gcd_iff, mul_assoc]
```

**Comment by amellendijk** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/27702
